US07285557B2
6-(4-Chlorophenyl)-3-{4-[2-(3,3-difluoropyrrolidin-1-yl)ethoxy]-3-methoxyphenyl}thieno[3,2-d]pyrimidin-4(3H)-one
Methyl 3-amino-5-(4-chlorophenyl)thiophene-2-carboxylate (0.1367 g, 0.5107 mmol) was taken up in dimethylformamdide dimethyl acetal (3 mL) and heated to 110° C. The reaction was stirred for 3 h and then concentrated. 4-[2-(3,3-Difluoropyrrolidin-1-yl)ethoxy]-3-methoxyaniline (0.1389 g, 0.5107 mmol) in absolute ethanol (3 mL) was added to the residue and concentrated. Fresh absolute ethanol (1 mL) was added and the reaction heated to reflux. The reaction was stirred for 18 h and then cooled to RT and the precipitate was collected to give 0.058 g (0.1120 mmol, 22%) of the product as a white solid. 1H NMR (D6-DMSO) δ 8.38 (s, 1H), 7.96 (s, 1H, 7.91 (d, 2H, J=8.4 Hz), 7.56 (d, 2H, J=8.4 Hz), 7.18 (s, 1H), 7.11 (d, 1H, J=8.5 Hz), 7.04 (d, 1H, J=8.6 Hz), 4.12 (t, 2H, J=5.5 Hz), 3.77 (s, 3H), 3.00 (t, 2H, J=13.6 Hz), 2.85 (t, 2H, J=5.5 Hz), 2.81 (t, 2H, J=7.0 Hz), 2.22 (m, 2H). LRMS M+H

reactant | Methyl 3-amino-5-(4-chlorophenyl)thiophene-2-carboxylate | 0.5107 mmol, 0.1367 g | NC1=C(SC(=C1)C1=CC=C(C=C1)Cl)C(=O)OC | C12H10ClNO2S
reactant | 4-[2-(3,3-Difluoropyrrolidin-1-yl)ethoxy]-3-methoxyaniline | 0.5107 mmol, 0.1389 g | FC1(CN(CC1)CCOC1=C(C=C(N)C=C1)OC)F | C13H18F2N2O2
reactant | ethanol | 3 mL | C(C)O | C2H6O
product | 6-(4-Chlorophenyl)-3-{4-[2-(3,3-difluoropyrrolidin-1-yl)ethoxy]-3-methoxyphenyl}thieno[3,2-d]pyrimidin-4(3H)-one | 0.1120 mmol, 0.058 g, 22% | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)OCCN1CC(CC1)(F)F)OC | C25H22ClF2N3O3S
